US08049016B2
Preparation of (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Preparation 6, making variations as required to replace (S)-ethyl 2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with (S)-ethyl 2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a colorless solid (91%): 1H NMR (300 MHz, CDCl3) δ 7.29-7.25 (m, 2H), 7.08-7.02 (m, 2H), 4.67-4.62 (m 1H), 4.55 (d, J=14.9 Hz, 1H), 4.44 (d, J=14.9 Hz, 1H), 3.58 (t, J=9.0 Hz, 1H), 3.00 (dd, J=9.0, 3.1 Hz, 1H), 2.64 (s, 3H), 1.48 (d, J=6.2 Hz, 3H); (ES+) m/z 349.9 (M+1).

reactant | (S)-ethyl 2-(3-(4-fluorobenzyl)-4-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1=CC=C(CN2C(N(C[C@@H]2C)C=2SC(=C(N2)C)C(=O)OCC)=O)C=C1 | C18H20FN3O3S
reactant | (S)-ethyl 2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1=CC=C(CN2C(N([C@H](C2)C)C=2SC(=C(N2)C)C(=O)OCC)=O)C=C1 | C18H20FN3O3S
product | (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N([C@H](C2)C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
